### PR TITLE
feat: prove confluence for βη-reduction

### PR DESCRIPTION
**Pull request by m-ow**
Depends on #455. Adds $\eta$-reduction properties and proves confluence for $\beta \eta$-reduction.

### CODE REVIEW

**Comment by chenson2018** [comment]
I realized that `BaseEta` was inconsistent naming with `Xi` and `Beta`, so I have changed this. I am working on reviewing the rest currently.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean [hunk 1]
```diff
@@ -69,6 +81,82 @@ lemma eta_subst_fvar {x y : Var} (step : M ⭢ηᶠ M') : M [ x := fvar y ] ⭢
...
+    have ⟨x, hx⟩ := fresh_exists (L ∪ s.fv)
+    simp only [Finset.mem_union, not_or] at hx
+    have eq1 := subst_intro x t s hx.2 lc_t
+    have eq2 := subst_intro x t' s hx.2 (step_lc_r step)
+    have subst_step := step_subst_cong_r (x := x) (s ^ fvar x) t t' step (hL x hx.1) lc_t
+    rw [eq1, eq2]
+    exact subst_step
+
+/- `steps_open_cong_r` can be generalized to multiple reductions `t ↠ηᶠ t'`. -/
+@[scoped grind ←]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean]: This annotation isn't used at all and causes a performance issue.

```suggestion
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean [hunk 2]
```diff
@@ -42,6 +44,16 @@ lemma step_lc_r (step : M ⭢ηᶠ M') : LC M' := by
...
 
+/-- Left congruence rule for application in multiple reduction. -/
+@[scoped grind ←]
+theorem redex_app_l_cong (redex : M ↠ηᶠ M') (lc_N : LC N) : app M N ↠ηᶠ app M' N := by
+  induction redex <;> grind
+
+/-- Right congruence rule for application in multiple reduction. -/
+@[scoped grind ←]
+theorem redex_app_r_cong (redex : M ↠ηᶠ M') (lc_N : LC N) : app N M ↠ηᶠ app N M' := by
+  induction redex <;> grind
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean]: These annotations causes instantiation issues. Since they are only used in a couple of places, could you just use them explicitly for now?

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean [hunk 3]
```diff
@@ -69,6 +81,82 @@ lemma eta_subst_fvar {x y : Var} (step : M ⭢ηᶠ M') : M [ x := fvar y ] ⭢
   | abs => grind [Xi.abs <| free_union Var]
   | _ => grind
 
+/-- Abstracting then closing preserves a single η-reduction step. -/
+lemma step_abs_close {x} (step : M ⭢ηᶠ M') (lc_M : LC M) :
+    M⟦0 ↜ x⟧.abs ⭢ηᶠ M'⟦0 ↜ x⟧.abs := by
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean]:
```suggestion
lemma step_abs_close {x} (step : M ⭢ηᶠ M') (lc_M : LC M) : (M ^* x).abs ⭢ηᶠ (M' ^* x).abs := by
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean [hunk 4]
```diff
@@ -69,6 +81,82 @@ lemma eta_subst_fvar {x y : Var} (step : M ⭢ηᶠ M') : M [ x := fvar y ] ⭢
...
+  grind [Xi.abs ∅]
+
+/-- Abstracting then closing preserves multiple reductions. -/
+lemma redex_abs_close {x} (steps : M ↠ηᶠ M') (lc_M : LC M) :
+    M⟦0 ↜ x⟧.abs ↠ηᶠ M'⟦0 ↜ x⟧.abs := by
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean]:
```suggestion
lemma redex_abs_close {x} (steps : M ↠ηᶠ M') (lc_M : LC M) : (M ^* x).abs ↠ηᶠ (M' ^* x).abs := by
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean [hunk 5]
```diff
@@ -69,6 +81,82 @@ lemma eta_subst_fvar {x y : Var} (step : M ⭢ηᶠ M') : M [ x := fvar y ] ⭢
...
+  induction steps using Relation.ReflTransGen.head_induction_on
+  case refl => exact .refl
+  case head b c st_bc _ ih =>
+    exact .head (step_abs_close st_bc lc_M) (ih (step_lc_r st_bc))
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean]: Fits on one line

```suggestion
  case head b c st_bc _ ih => exact .head (step_abs_close st_bc lc_M) (ih (step_lc_r st_bc))
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean [hunk 6]
```diff
@@ -69,6 +81,82 @@ lemma eta_subst_fvar {x y : Var} (step : M ⭢ηᶠ M') : M [ x := fvar y ] ⭢
...
+/-- Multiple reduction of opening implies multiple reduction of abstraction. -/
+theorem redex_abs_cong {M M' : Term Var} (xs : Finset Var)
+    (cofin : ∀ x ∉ xs, (M ^ fvar x) ↠ηᶠ M' ^ fvar x) (lc_M : LC M.abs) :
+    M.abs ↠ηᶠ M'.abs := by
+  cases lc_M
+  case' abs L hL =>
+    have ⟨x, hx⟩ := fresh_exists (xs ∪ M.fv ∪ M'.fv ∪ L)
+    simp only [Finset.mem_union, not_or] at hx
+    have := redex_abs_close (x := x) (cofin x hx.1.1.1) (hL x hx.2)
+    grind [open_close x M 0 hx.1.1.2, open_close x M' 0 hx.1.2]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean]: You can let `grind` figure out the free variable work, while still being explicit about the rewrites for clarity/performance:

```suggestion
  case abs L hL =>
    have ⟨x, _⟩ := fresh_exists <| free_union [fv] Var
    rw [open_close x M 0, open_close x M' 0]
    all_goals grind [redex_abs_close (x := x) (cofin x ?_) (hL x ?_)]
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean [hunk 7]
```diff
@@ -69,6 +81,82 @@ lemma eta_subst_fvar {x y : Var} (step : M ⭢ηᶠ M') : M [ x := fvar y ] ⭢
...
+    · intro z hz
+      simp only [Finset.mem_union, Finset.mem_singleton, not_or] at hz
+      have hz_x : z ≠ x := hz.2
+      have steps_body : (body ^ fvar z)[x:=t] ↠ηᶠ (body ^ fvar z)[x:=t'] :=
+        ih z hz.1 t t' st lc_t
+      have eq1 := subst_open_var z x t body hz_x.symm lc_t
+      have eq2 := subst_open_var z x t' body hz_x.symm (step_lc_r st)
+      rw [eq1, eq2] at steps_body
+      exact steps_body
+    · exact subst_lc (LC.abs L body h_lc_body) lc_t
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean]: Various changes for readability:

```suggestion
  induction lc_s generalizing t t' with
  | fvar => grind
  | app hl hr ih_l ih_r =>
    trans
    · exact redex_app_l_cong (ih_l t t' st lc_t) (subst_lc hr lc_t)
    · exact redex_app_r_cong (ih_r t t' st lc_t) (subst_lc hl (step_lc_r st))
  | abs L body h_lc_body ih =>
    apply redex_abs_cong (L ∪ {x})
    · intro z
      grind =>
        have : (body ^ fvar z)[x := t] ↠ηᶠ (body ^ fvar z)[x := t']
        finish
    · exact subst_lc (LC.abs L body h_lc_body) lc_t
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean [hunk 8]
```diff
@@ -69,6 +81,82 @@ lemma eta_subst_fvar {x y : Var} (step : M ⭢ηᶠ M') : M [ x := fvar y ] ⭢
...
+
+/- `steps_subst_cong_r` can be generalized to multiple reductions `t ↠ηᶠ t'`. -/
+lemma steps_subst_cong_r {x : Var} (s t t' : Term Var) (st : t ↠ηᶠ t') (lc_s : LC s) (lc_t : LC t) :
+    s [ x := t ] ↠ηᶠ s [ x := t' ] := by
+  induction st using Relation.ReflTransGen.head_induction_on
+  case refl => rfl
+  case head _ _ st _ ih =>
+    exact .trans (step_subst_cong_r s _ _ st lc_s lc_t) (ih (step_lc_r st))
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean]: Fits on one line

```suggestion
  case head _ _ st _ ih => exact .trans (step_subst_cong_r s _ _ st lc_s lc_t) (ih (step_lc_r st))
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean [hunk 9]
```diff
@@ -69,6 +81,82 @@ lemma eta_subst_fvar {x y : Var} (step : M ⭢ηᶠ M') : M [ x := fvar y ] ⭢
...
+    (s ^ t) ↠ηᶠ s ^ t' := by
+  cases lc_s
+  case' abs L hL =>
+    have ⟨x, hx⟩ := fresh_exists (L ∪ s.fv)
+    simp only [Finset.mem_union, not_or] at hx
+    have eq1 := subst_intro x t s hx.2 lc_t
+    have eq2 := subst_intro x t' s hx.2 (step_lc_r step)
+    have subst_step := step_subst_cong_r (x := x) (s ^ fvar x) t t' step (hL x hx.1) lc_t
+    rw [eq1, eq2]
+    exact subst_step
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean]:
```suggestion
  case abs L hL =>
    have ⟨x, _⟩ := fresh_exists <| free_union [fv] Var
    grind [step_subst_cong_r (x := x) (s ^ fvar x) t t' step (hL x ?_) lc_t]
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean [hunk 10]
```diff
@@ -69,6 +81,82 @@ lemma eta_subst_fvar {x y : Var} (step : M ⭢ηᶠ M') : M [ x := fvar y ] ⭢
...
+
+/- `steps_open_cong_r` can be generalized to multiple reductions `t ↠ηᶠ t'`. -/
+@[scoped grind ←]
+lemma steps_open_cong_r {s t t' : Term Var} (lc_s : LC s.abs) (lc_t : LC t) (steps : t ↠ηᶠ t') :
+    (s ^ t) ↠ηᶠ s ^ t' := by
+  induction steps using Relation.ReflTransGen.head_induction_on
+  case refl => rfl
+  case head _ _ st _ ih =>
+    exact .trans (step_open_cong_r lc_s lc_t st) (ih (step_lc_r st))
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean]:
```suggestion
  case head _ _ st _ ih => exact .trans (step_open_cong_r lc_s lc_t st) (ih (step_lc_r st))
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean [hunk 11]
```diff
@@ -78,6 +166,21 @@ lemma close_eta_steps (hx_M : x ∉ M.fv) (st_M : ReflGen FullEta (M ^ fvar x) N
   | single st =>
     exact .single (Xi.abs {x} (by grind))
 
+/- `s ⭢ηᶠ s'` implies `s [ x := N ] ⭢ηᶠ s' [ x := N ]`. -/
+lemma step_subst_cong_l {x : Var} (s s' N : Term Var) (step : s ⭢ηᶠ s') (lc_N : LC N) :
+    s [ x := N ] ⭢ηᶠ s' [ x := N ] := by
+  induction step
+  case' base h => cases h with | eta lc => exact Xi.base (.eta (subst_lc lc lc_N))
+  case' abs => grind [Xi.abs <| free_union Var, subst_open_var]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean]:
```suggestion
  case base h => cases h with | eta lc => exact Xi.base (.eta (subst_lc lc lc_N))
  case abs => grind [Xi.abs <| free_union Var, subst_open_var]
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean [hunk 12]
```diff
@@ -0,0 +1,113 @@
...
+/-- η-reduction and β-reduction strongly commute. -/
+lemma stronglyCommute_eta_beta : StronglyCommute (@FullEta Var) FullBeta := by
+  intro x y₁ y₂ h₁ st_beta
+  induction st_beta generalizing y₁
+  case base h1_b =>
+    cases h1_b
+    case beta M N _ _ =>
+      cases h₁
+      case base h => cases h
+      case appL v _ _ => use (disch := grind [step_open_cong_r]) M ^ v
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean]: Let's not golf into setting the discharger to `grind` unless its without any parameters. (I somewhat regret suggesting it at all actually...) Please change here and elsewhere below.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean [hunk 13]
```diff
@@ -0,0 +1,113 @@
...
+      case appR u st_eta_absM _ =>
+        have := step_lc_r st_eta_absM
+        cases st_eta_absM
+        case base h => cases h with | eta => use (disch := grind) app u N
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean]:
```suggestion
        case base h => use (disch := grind) app u N
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean [hunk 14]
```diff
@@ -0,0 +1,113 @@
...
+        case abs M_eta xs _ =>
+          have ⟨_, hz⟩ := fresh_exists (xs ∪ N.fv ∪ M.fv ∪ M_eta.fv)
+          simp only [Finset.mem_union, not_or] at hz
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean]:
```suggestion
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean [hunk 15]
```diff
@@ -0,0 +1,113 @@
...
+      use (disch := grind) app Z (ih st).choose
+    case appR z_red _ _ =>
+      use (disch := grind) app z_red N
+  case appR M _ Z _ _ ih =>
+    cases h₁
+    case base h => cases h
+    case appL z_red _ _ =>
+      use (disch := grind) app Z z_red
+    case appR _ st _ =>
+      use (disch := grind) app (ih st).choose M
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean]: I find putting some of these on one line easier to read (but this is maybe a matter of taste versus style guideline)

```suggestion
  case appL Z _ N _ _ ih =>
    cases h₁
    case base h => cases h
    case appL _ _ st => use (disch := grind) app Z (ih st).choose
    case appR z_red _ _ => use (disch := grind) app z_red N
  case appR M _ Z _ _ ih =>
    cases h₁
    case base h => cases h
    case appL z_red _ _ => use (disch := grind) app Z z_red
    case appR _ st _ => use (disch := grind) app (ih st).choose M
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean [hunk 16]
```diff
@@ -0,0 +1,113 @@
...
+      cases h_eta with | eta =>
+        have ⟨w, hw⟩ := fresh_exists (xs ∪ y₁.fv ∪ N.fv)
+        simp only [Finset.mem_union, not_or] at hw
+        have st_beta_w : app y₁ (fvar w) ⭢βᶠ N ^ fvar w := by grind [st_body_beta w hw.1.1]
+        rcases invert_step_app_fvar st_beta_w with ⟨u', eq_N_open, st_u⟩ | ⟨u1, _, eq_N_open⟩
+        · have eq_N : N = app u' (bvar 0) :=
+            open_eq_app hw.2 (step_not_fv st_u hw.1.2) (step_lc_r st_u) eq_N_open
+          use (disch := grind [Eta.eta]) u'
+        · have eq_N : N = u1 := open_injective w N u1 hw.2 (by grind) eq_N_open
+          use (disch := grind) abs u1
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean]:
```suggestion
        have ⟨w, _⟩ := fresh_exists <| free_union [fv] Var
        have st_beta_w : app y₁ (fvar w) ⭢βᶠ N ^ fvar w := by grind [st_body_beta w]
        rcases invert_step_app_fvar st_beta_w with ⟨u', _, st_u⟩ | ⟨u1, _, _⟩
        · use u'
          grind [open_eq_app ?_ (step_not_fv st_u ?_)]
        · use abs u1
          grind [open_injective w N u1]
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean [hunk 17]
```diff
@@ -0,0 +1,113 @@
...
+      · cases h_beta with
+        | refl => grind [open_close]
+        | single st_w =>
+          apply ReflGen.single
+          apply Xi.abs {w}
+          intro z hz
+          have eq_uz := subst_intro w (fvar z) S hw.2 (by constructor)
+          have eq_wz := open_close_to_subst K w z 0 (step_lc_r st_w)
+          grind [FullBeta.redex_subst_cong]
+      · grind [FullEta.redex_abs_close, open_close w N 0 hw.1.2]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean]:
```suggestion
      have ⟨w, hw⟩ := fresh_exists <| free_union [fv] Var
      obtain ⟨K, h_beta, _⟩ := ih w (by grind) (st_body_eta w (by grind))
      use abs (K ^* w)
      constructor
      · cases h_beta with
        | refl => grind [open_close]
        | single =>
          apply ReflGen.single
          apply Xi.abs {w}
          grind [FullBeta.redex_subst_cong]
      · rw [open_close w N 0]
        all_goals grind [FullEta.redex_abs_close]
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]
It's great to see that the definitions I added about strongly commuting relations are getting some use! Just some style notes, very similar to the previous PRs.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean [hunk 18]
```diff
@@ -0,0 +1,113 @@
...
+variable {Var : Type u}
+variable [HasFresh Var] [DecidableEq Var]
+
+namespace LambdaCalculus.LocallyNameless.Untyped.Term
+
+open Relation
+
+/-- Full βη-reduction. -/
+@[reduction_sys "βηᶠ"]
+abbrev FullBetaEta : Term Var → Term Var → Prop := FullBeta ⊔ FullEta
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean:37]: I know in a previous PR I mentioned proving  `Xi r₁ ⊔ Xi r₂ = Xi (r₁ ⊔ r₂)`, but is this actually true generally? If so this could be written maybe slightly nicer as `Xi (Beta ⊔ Eta)`, but I got stuck on an abstraction case.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean (hunk 2 above)
Comment (m-ow) [reply Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean]: Done!

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean (hunk 18 above)
Comment (m-ow) [reply Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean:37]: I agree that `Xi (Beta ⊔ Eta)` is more elegant, but the abstraction case requires some heavy renaming lemmas. To keep this PR focused, I think sticking with `FullBeta ⊔ FullEta` is best for now. I'd be happy to tackle that refactor in a future PR! Let me know if everything else looks good to merge.

**Review by chenson2018 — APPROVED** [review]

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean (hunk 18 above)
Comment (chenson2018) [reply Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEtaConfluence.lean:37]: Sound good to me, I've sent to the merge queue. Great to see this complete! Please let me know if there's other work you're considering.
